US05212187
N-cyano-N'-[2-[N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine
Preparation is effected analogously to Example 1, using 0.7 g (2.4 mmol) of N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,2-ethanediamine and 0.95 g (2.4 mmol) of N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int.[%])=586 ([M+H]+, 1), 214 (100).

reactant | N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,2-ethanediamine | 2.4 mmol, 0.7 g | FC1=CC=C(C=C1)C(CCN(CCN)C)C1=NC=CC=C1 | C17H22FN3
reactant | N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea | 2.4 mmol, 0.95 g | C(#N)NC(OC1=CC=CC=C1)=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H28N4O2
product | N-cyano-N'-[2-[N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine | C(#N)NC(=NCCCOC1=CC(=CC=C1)CN1CCCCC1)NCCN(C)CCC(C1=NC=CC=C1)C1=CC=C(C=C1)F | C34H44FN7O
